US04618683
1-Cyano-5-methoxy-3,4-dihydronaphthalene
A solution of 5-methoxy-1-tetralone (52.0 g, 0.29 mole, Aldrich), TMSCN (51 mL, 0.38 mole, Aldrich), 40 mL dry benzene, and catalytic AlCl3 was stirred under N2 at 65° C. for 1 hour. The reaction mixture was cooled and evaporated to dryness. To the residue was added 300 mL pyridine and POCl3 (80 mL, 0.88 mole). The reaction mixture was stirred at reflux for 2 hours, then was cooled to room temperature and was poured onto ice/concentrated HCl. A precipitate was collected, washed with water, and purified by column chromatography (silica gel/CH2Cl2) to obtain 54 g (73%); M+ 185.

reactant | 5-methoxy-1-tetralone | 0.29 mole, 52.0 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | TMSCN | 0.38 mole, 51 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | POCl3 | 0.88 mole, 80 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 1-Cyano-5-methoxy-3,4-dihydronaphthalene | C(#N)C1=CCCC2=C(C=CC=C12)OC | C12H11NO
